US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridin-2-yl-morpholin-4-yl-methanone
The title compound was prepared from morpholine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 282/284 (MH+), HPLC Rf: 3.96 min.; HPLC purity 98%.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridin-2-yl-morpholin-4-yl-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCOCC2 | C12H11ClN2O2S
